US08053438B2
To a solution of benzo[d]thiazol-2-yl(4-(3-chloropyrazin-2-yloxy)phenyl)methanone (185 mg, 0.503 mmol) in DMSO (2 mL) was added morpholine (219 μl, 2.52 mmol). The reaction mixture was heated at 100° C. for 2 h. The reaction mixture was partitioned between EtOAc and brine. The precipitate formed was collected by filtration, washed with EtOAc and water, dried to provide benzo[d]thiazol-2-yl(4-(3-morpholinopyrazin-2-yloxy)phenyl)methanone as light-yellow solid. MS (ESI, pos. ion) m/z: 419.0. IC50 (uM) ++.

reactant | benzo[d]thiazol-2-yl(4-(3-chloropyrazin-2-yloxy)phenyl)methanone | 0.503 mmol, 185 mg | S1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2Cl | C18H10ClN3O2S
reactant | morpholine | 2.52 mmol, 219 μl | N1CCOCC1 | C4H9NO
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | benzo[d]thiazol-2-yl(4-(3-morpholinopyrazin-2-yloxy)phenyl)methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2N2CCOCC2 | C22H18N4O3S
